US05254776
Using methodology generally similar to the above examples, 1.22 g of phenylboronic acid in about 5 ml of ethanol, 3 g of 2-fluoro-4-bromoiodobenzene, 20 g of fluorobenzene, 0.2 g of 5% Pd on carbon catalyst, and 10 ml of 2 molar Na2CO3 were combined and stirred rapidly (without a nitrogen purge) at 25° C. for 65 hours. The desired 2-fluoro-4-bromobiphenyl was produced in about 10% yield with only partial conversion of the starting materials, considerable byproduct formation, but no observed terphenyl formation.

reactant | phenylboronic acid | 1.22 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-fluoro-4-bromoiodobenzene | 3 g | FC1=C(C=CC(=C1)Br)I | C6H3BrFI
reactant | fluorobenzene | 20 g | FC1=CC=CC=C1 | C6H5F
reactant | Na2CO3 | 2 molar, 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | about 5 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 0.2 g | [Pd] | Pd
product | 2-fluoro-4-bromobiphenyl | about 10% yield | FC1=C(C=CC(=C1)Br)C1=CC=CC=C1 | C12H8BrF
